US05077409
4-Methyl-1-(3-nitrophenyl)-1H-imidazole
To a mixture of 112.9 g of m-fluoronitrobenzene and 65.69 g of 4-methylimidazole in 1 liter of dimethylsulfoxide is added 58.51 g of potassium carbonate followed by heating under dry conditions at 110° C. for 39 hours. The reaction mixture is poured into 3.3 liters of water and stored in a refrigerator for 2 days. The mixture is filtered and the cake washed with copious volumes of water followed by suction drying to give 25 g of brown solid. The solid is crystallized from ethyl acetate to give 15.0 g of the desired product as a beige solid, m.p. 119°-120° C. From the combined recrystallization filtrates is obtained 800 mg of 5-methyl-1-(3-nitrophenyl)-1H-imidazole as a beige solid, m.p. 130°-132° C.

reactant | m-fluoronitrobenzene | 112.9 g | FC=1C=C(C=CC1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-methylimidazole | 65.69 g | CC=1N=CNC1 | C4H6N2
reactant | potassium carbonate | 58.51 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 3.3 liters | O | H2O
solvent | dimethylsulfoxide | 1 liter | CS(=O)C | C2H6OS
product | 4-Methyl-1-(3-nitrophenyl)-1H-imidazole | 25 g | CC=1N=CN(C1)C1=CC(=CC=C1)[N+](=O)[O-] | C10H9N3O2
